US04859229
using ethyl 3-amino-2,4,4,4-tetrafluorocrotonate and 4-chloro-2-fluoro-5-isopropoxyphenyl isocyanate there is obtained 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5-fluoro-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione, m.p. 133°-135° C.

reactant | ethyl 3-amino-2,4,4,4-tetrafluorocrotonate | N\C(=C(/C(=O)OCC)\F)\C(F)(F)F | C6H7F4NO2
reactant | 4-chloro-2-fluoro-5-isopropoxyphenyl isocyanate | ClC1=CC(=C(C=C1OC(C)C)N=C=O)F | C10H9ClFNO2
product | 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5-fluoro-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OC(C)C)N1C(NC(=C(C1=O)F)C(F)(F)F)=O)F | C14H10ClF5N2O3
